US08703941B2
To a solution of 4-[[4-(dimethylamino)cyclohexyl]oxy]-6-ethylthieno[2,3-d]pyrimidine-5-carboxylic acid (100 mg, 0.29 mmol, 1.00 equiv) in distilled DMF (5 mL) was added HATU (217 mg, 0.57 mmol, 2.00 equiv), DIEA (110.9 mg, 0.86 mmol, 3.00 equiv) and 3-fluoropyridin-4-amine (32 mg, 0.29 mmol, 1.00 equiv) under nitrogen. The resulting solution was stirred for 1 h at room temperature. After evaporation under reduced pressure, the crude product (120 mg) was purified by Prep-HPLC with the following conditions (Waters): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% NH4HCO3 and CH3CN (7.0% CH3CN up to 48.0% in 10 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the corresponding 4-[[4-(dimethylamino)cyclohexyl]oxy]-6-ethyl-N-(3-fluoropyridin-4-yl)thieno[2,3-d]pyrimidine-5-carboxamide (40 mg) as a white solid. MS (ES, m/z): 444 [M+H]+. 1H NMR: (400 MHz, CD3OD): 8.55-8.59 (2H, m), 8.50 (1H, d), 8.40 (1H, d), 5.19-5.24 (1H, m), 3.07 (2H, q), 2.28 (6H, s), 2.10-2.19 (3H, m), 1.89-1.92 (2H, m), 1.27-1.43 (5H, m), 1.22-1.25 (2H, m).

reactant | 4-[[4-(dimethylamino)cyclohexyl]oxy]-6-ethylthieno[2,3-d]pyrimidine-5-carboxylic acid | 0.29 mmol, 100 mg, 1.00 equiv | CN(C1CCC(CC1)OC=1C2=C(N=CN1)SC(=C2C(=O)O)CC)C | C17H23N3O3S
reactant | HATU | 0.57 mmol, 217 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.86 mmol, 110.9 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-fluoropyridin-4-amine | 0.29 mmol, 32 mg, 1.00 equiv | FC=1C=NC=CC1N | C5H5FN2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[[4-(dimethylamino)cyclohexyl]oxy]-6-ethyl-N-(3-fluoropyridin-4-yl)thieno[2,3-d]pyrimidine-5-carboxamide | 40 mg | CN(C1CCC(CC1)OC=1C2=C(N=CN1)SC(=C2C(=O)NC2=C(C=NC=C2)F)CC)C | C22H26FN5O2S
